US03954756
To the residue of α-sodioformyl-β-formylaminopropionitrile is added 300 parts by volume of tetrahydrofuran and 138 parts of dimethyl sulfate. The mixture is reacted under stirring at 70°C for 5 hours. After completion of the reaction, the mixture is cooled at 25°C. The precipitated sodium methyl sulfate is removed and the filtrate is concentrated and kept standing overnight, whereby 135 parts of α-methoxymethylene-β-formylaminopropionitrile is obtained as crystals.

reactant | α-sodioformyl-β-formylaminopropionitrile | [Na]C(=O)C(C#N)CNC=O
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | α-methoxymethylene-β-formylaminopropionitrile | COC=C(C#N)CNC=O | C6H8N2O2
